US09359340B2
To a solution of tert-butyl 2-(4-chlorophenyl)-3-(4-(7-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (49 mg, 0.09 mmol) in DCM (10 mL) was added HCl in dioxane (4M, 2 mL). The mixture was stirred at room temperature overnight. The solvent was removed to afford the 2-(4-chlorophenyl)-1-(4-(7-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride (46 mg, 99%). 1H NMR (D2O, 400 MHz) δ 8.38-8.36 (m, 1H), 7.37-7.34 (m, 2H), 7.22-7.19 (m, 2H), 5.18-5.10 (m, 1H), 4.34-4.28 (m, 1H), 4.10-3.00 (m, 12H), 2.50-2.40 (m, 1H), 1.85-1.75 (m, 1H), 1.28-1.26 (m, 6H), 1.20-1.13 (m, 3H). MS (APCI+) [M+H] +444.

reactant | tert-butyl 2-(4-chlorophenyl)-3-(4-(7-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | 0.09 mmol, 49 mg | ClC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)C(CC2)O | C28H38ClN5O4
reactant | HCl | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4M, 2 mL | O1CCOCC1 | C4H8O2
product | 2-(4-chlorophenyl)-1-(4-(7-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride | 46 mg, 99% | Cl.Cl.ClC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)C(CC2)O)CNC(C)C | InChI=1S/C23H30ClN5O2.2ClH/c1-15(2)25-13-19(16-3-5-17(24)6-4-16)23(31)29-11-9-28(10-12-29)22-18-7-8-20(30)21(18)26-14-27-22;;/h3-6,14-15,19-20,25,30H,7-13H2,1-2H3;2*1H
